US07728009B1
Step 3. Preparation of 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid ethyl ester
To a solution of 5-bromo-4-methyl-thiazole-2-carboxylic acid ethyl ester (60 mg, 0.24 mmol) in 1,4-dioxane (2 ml) is added 1-naphthaleneboronic acid (50 mg, 0.29 mmol), cesium carbonate (187 mg, 0.58 mmol) and Pd(PPh3)4 (28 mg, 0.024 mmol). The reaction mixture is stirred in a sealed tube at 110° C. overnight. After cooling to rt, the mixture is purified by PTLC to give the title compound.

reactant | 5-bromo-4-methyl-thiazole-2-carboxylic acid ethyl ester | 0.24 mmol, 60 mg | C(C)OC(=O)C=1SC(=C(N1)C)Br | C7H8BrNO2S
reactant | 1-naphthaleneboronic acid | 0.29 mmol, 50 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | cesium carbonate | 0.58 mmol, 187 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.024 mmol, 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(N1)C)C1=CC=CC2=CC=CC=C12 | C17H15NO2S
